US06441017B1
Step D: 7-tert-Butoxy-1-nitronaphthalene
Isobutylene (150 mL) was condensed into a stirred mixture of 8-nitro-2-naphthol, as described above in Step C, (4.35 g, 23.0 mmol) in CH2Cl2 (200 mL) at −78° C. Trifluoromethanesulfonic acid (0.203 mL, 2.30 mmol) was added and the mixture was allowed to slowly warm to −20° C. over about 4 hours. Triethylamine (2.56 mL, 18.4 mmol) was added and the mixture was allowed to warm to ambient temperature, then concentrated under reduced pressure. The crude product was purified by flash column chromatography on silica, eluting with hexane—5% EtOAc to yield the titled product.

reactant | Isobutylene | 150 mL | CC(C)=C | C4H8
reactant | 8-nitro-2-naphthol | [N+](=O)([O-])C=1C=CC=C2C=CC(=CC12)O | C10H7NO3
reactant | Trifluoromethanesulfonic acid | 2.30 mmol, 0.203 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | Triethylamine | 18.4 mmol, 2.56 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 7-tert-Butoxy-1-nitronaphthalene | C(C)(C)(C)OC1=CC=C2C=CC=C(C2=C1)[N+](=O)[O-] | C14H15NO3
